US06002008
2-(3-Cyano-6,7-dimethoxy-quinolin-4-ylamino)-benzamide
Using an analogous procedure to that described in Example 286, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 12 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 177.0 mg (1.3 mmol) of anthranilamide to give 292.4 mg (84.0%) of the product as a deep yellow solid, m.p. 238-240.5° C., mass (electrospray, m/e): M+H 348.9.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | anthranilamide | 1.3 mmol, 177.0 mg | C(C=1C(N)=CC=CC1)(=O)N | C7H8N2O
solvent | 2-ethoxyethanol | 12 mL | C(C)OCCO | C4H10O2
product | 2-(3-Cyano-6,7-dimethoxy-quinolin-4-ylamino)-benzamide | 292.4 mg, 84.0% | C(#N)C=1C=NC2=CC(=C(C=C2C1NC1=C(C(=O)N)C=CC=C1)OC)OC | C19H16N4O3
